US07666888B2
N,N-Diethyl-5-(4-methylphenyl)isoxazole-4-carboxamide
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and diethylamine (4.4 mg, 0.060 mmol) as described in synthetic method A and thereafter purified by preparative HPLC method A to give a solid (7.0 mg). MS (pos) m/z 259.1 (M+1).

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | diethylamine | 0.060 mmol, 4.4 mg | C(C)NCC | C4H11N
product | N,N-Diethyl-5-(4-methylphenyl)isoxazole-4-carboxamide | C(C)N(C(=O)C=1C=NOC1C1=CC=C(C=C1)C)CC | C15H18N2O2
